US07091353B2
1,8-Diazabicyclo[5,4,0]undec-7-ene (0.650 g, 2.22 mmol) was added to a stirred suspension of 4-(aminomethyl)-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione hydrochloride (0.600 g, 1.85 mmol) in CH3CN (50 ml). After stirring for 20 min, 2-furoyl chloride (0.290 g, 2.22 mmol) was added and the mixture was stirred at room temperature for 17 hours. The solvent was removed in vacuo and the residue was dissolved in CH2Cl2 (70 ml). The CH2Cl2 solution was washed 1N HCl (30 ml), H2O (30 ml), brine (30 ml) and dried (MgSO4). The solvent was removed in vacuo and the residue was purified by chromatography (SiO2, CH2Cl2:EtOAc 1:1) to give N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}-2-furylcarboxamide (0.51 g, 73%) as a white solid: mp 121–123° C.; 1H NMR (DMSO-d6) δ d 11.13 (s, 1H), 9.01 (t, J=5.7 Hz, 1H), 7.88–7.68 (m, 4H), 7.18 (d, J=3.3 Hz, 1H), 6.66 (m, 1H), 5.20–5.13 (dd, J=5.4 and 12.5 Hz, 1H), 4.90 (d, J=5.6 Hz, 2H), 2.97–2.84 (m, 1H), 2.65–2.49 (m, 2H), 2.10–1.98 (m, 1H); 13C NMR (DMSO-d6) δ d 172.73, 169.80, 167.52, 166.94, 158.09, 147.49, 145.27, 139.06, 134.80, 132.98, 131.52, 127.09, 121.88, 113.86, 111.91, 48.86, 37.64, 30.92, 21.97; Anal. Calcd. For C19H15N3O6+0.18 H2O: C, 59.34; H, 4.03; N, 10.93. Found: C, 59.47; H, 4.16; N, 10.49.

reactant | 1,8-Diazabicyclo[5,4,0]undec-7-ene | 2.22 mmol, 0.650 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 4-(aminomethyl)-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione hydrochloride | 1.85 mmol, 0.600 g | Cl.NCC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O
reactant | 2-furoyl chloride | 2.22 mmol, 0.290 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | CH3CN | 50 ml | CC#N | C2H3N
product | N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}-2-furylcarboxamide | 0.51 g, 73% | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)CNC(=O)C=1OC=CC1)=O)=O | C19H15N3O6
